US07396847B2
(5R)-3-(5-{5-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]thien-2-yl}pyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
(5R)-3-(5-Bromopyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one (195 mg, 0.58 mM), {3-[5-(trimethylstannyl)thien-2-yl]-4,5-dihydroisoxazol-5-yl}methanol (200 mg, 0.58 mM), tris(dibenzylideneacetone)-dipalladium (0)-chloroform adduct (60 mg, 0.058 mM) and tri-2-furylphosphine (27 mg, 0.116 mM) were placed in a flask. The solids were degassed and placed under nitrogen. Anhydrous dioxane (5 ml) was added and the suspension was heated at 90° C. for 5 hours. The reaction mixture was cooled and the solvent was evaporated. The residue was chromatographed on silica gel eluting with 5% methanol in dichloromethane to give the title compound (72 mg).

reactant | (5R)-3-(5-Bromopyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 0.58 mM, 195 mg | BrC=1C=CC(=NC1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C12H12BrN5O2
reactant | {3-[5-(trimethylstannyl)thien-2-yl]-4,5-dihydroisoxazol-5-yl}methanol | 0.58 mM, 200 mg | C[Sn](C1=CC=C(S1)C1=NOC(C1)CO)(C)C
reactant | tri-2-furylphosphine | 0.116 mM, 27 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | tris(dibenzylideneacetone)-dipalladium (0)-chloroform adduct | 0.058 mM, 60 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (5R)-3-(5-{5-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]thien-2-yl}pyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 72 mg | OCC1CC(=NO1)C1=CC=C(S1)C=1C=CC(=NC1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C20H20N6O4S
